US08440689B2
D. tert-Butyl 4,6-dichloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
A 12 L 3-neck RBF was charged with 4,6-dichloro-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (745.0 g, 1.0 eq), DCM (3.0 L), Et3N (940 mL, 2.0 eq), and DMAP (20.59 g, 0.05 eq). To a separate 2-L flask containing di-tert-butyl dicarbonate (882.8 g, 1.2 eq) was added DCM (0.75 L), and the resulting clear solution was added dropwise to the reaction mixture over a 20 min period via a peristaltic pump. The 2-L flask was rinsed with DCM (0.75 L) and the rinse was added to the reaction mixture, which was stirred at RT for 28 min. Ethanol (7.5 L) was added and the mixture was concentrated under reduced pressure to a volume of about 4.5 L. A second volume of EtOH (7.5 L) was added to the mixture and distillation was continued until about 4.5 L of the material remained. The resultant slurry was stirred at 15-20° C. for 10 min and was then filtered through a Buchner funnel. The filter cake was washed with EtOH (3×1.5 L) and dried under high vacuum at RT overnight to give the title compound as a pink solid (873 g, 81% yield). 1H (300 MHz, CDCl3) δ ppm 1.61 (s, 9H), 4.82 (d, J=0.9 Hz, 2H), 19F NMR (282 MHz, CDCl3) δ ppm −128.36. [M−H] calc'd for C12H11C12FN2O3, 319. found, 319.

reactant | 4,6-dichloro-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 745.0 g, 1.0 eq | ClC1=NC(=C(C2=C1C(NC2)=O)F)Cl | C7H3Cl2FN2O
reactant | Et3N | 940 mL, 2.0 eq | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 882.8 g, 1.2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 20.59 g, 0.05 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 0.75 L | C(Cl)Cl | CH2Cl2
solvent | DCM | 3.0 L | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4,6-dichloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 873 g, 81% yield | ClC1=NC(=C(C2=C1C(N(C2)C(=O)OC(C)(C)C)=O)F)Cl | C12H11Cl2FN2O3
